US04792628
28 Grams of hydroxylamine hydrochloride and 56 g of potassium carbonate were added in 400 ml of methanol, and the mixture was refluxed by hetting for 30 minutes. After cooling the reaction mixture to a room temperature, the supernatant liquor was collected by separation to prepare a methanol solution of hydroxylamine. To this methanol solution of hydroxylamine was added 16.2 g of 7-hydroxy-4-methyl-1-indanone and refluxed by heating for 5 hours under stirring condition. The reaction mixture was concentrated to dryness under a reduced pressure. To the residue thus obtained was added 200 ml of ethyl acetate, then the insoluble matter was removed by filtration. The filtrate was concentrated to dryness under a reduced pressure, and the residue was recrystallized from methanol to obtain 17.6 g of 7-hydroxy-4-methyl-1-indanone oxime in the form of colorless needle-like crystals.

reactant | hydroxylamine hydrochloride | Cl.NO
reactant | potassium carbonate | 56 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine | NO | H3NO
reactant | 7-hydroxy-4-methyl-1-indanone | 16.2 g | OC=1C=CC(=C2CCC(C12)=O)C | C10H10O2
solvent | methanol | 400 ml | CO | CH4O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 7-hydroxy-4-methyl-1-indanone oxime | 17.6 g | OC=1C=CC(=C2CCC(C12)=NO)C | C10H11NO2
